US06235771B1
In DMF (100 ml) was dissolved 4-bromobenzenethiol (10.1 g), and to the solution was added at room temperature potassium carbonate (9.6 g). To the mixture was added dropwise 1-iodohexane (9.5 ml), and the mixture was stirred for 2 hours. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=2/1) to give 1-bromo-4-(hexylthio)benzene (14.2 g). In THF (127 ml) was dissolved 1-bromo-4-(hexylthio)benzene (14.1 g), and to the solution was added dropwise at −78° C. 1.6M n-butyllithium/hexane (35.5 ml), and the mixture was stirred for 1 hour. To the mixture was added dropwise a solution of trimethyl borate (16.1 g) in THF (32 ml), and the mixture was stirred for 30 minutes and warmed to room temperature. To the mixture was added 10% sulfuric acid (70.5 ml), and the mixture was stirred for 15 minutes. The reaction mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was washed with hexane/isopropylether to give 4-(hexylthio)phenyl borate (6.6 g).

reactant | 4-bromobenzenethiol | 10.1 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | potassium carbonate | 9.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodohexane | 9.5 ml | ICCCCCC | C6H13I
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-bromo-4-(hexylthio)benzene | 14.2 g | BrC1=CC=C(C=C1)SCCCCCC | C12H17BrS
